US05034404
A mixture of 0.53g of nitroguanidine, 0.61g of 3-(aminomethyl)pyridine and 10ml of water was stirred for 1.5 hours at 70-80° C. and allowed to stand over night at room temperature. The precipitate collected by filtration was washed with ethanol to obtain 0.48g of N-nitro-N'-(3-pyridylmethyl)guanidine (Compound No. 12).

reactant | nitroguanidine | 0.53g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | 3-(aminomethyl)pyridine | 0.61g | NCC=1C=NC=CC1 | C6H8N2
solvent | water | 10ml | O | H2O
product | N-nitro-N'-(3-pyridylmethyl)guanidine | 0.48g | [N+](=O)([O-])NC(=N)NCC=1C=NC=CC1 | C7H9N5O2
